US03988373
A solution of [3-(2,6,6-trimethyl-1-cyclohexenyl)-2(trans)-propenyl]dimethylamine (2.0 g) in dry ether (20 cc) was added to methyliodide (2.0 g), and the reaction mixture was allowed to stand over night. Precipitated crystals were gathered by filtration, and recrystallized from a mixed solvent of ethanol, benzene and ether to give colorless crystals (2.3 g) of [3-(2,6,6-trimethyl-1-cyclohexenyl)-2(trans)-propenyl]trimethylammonium iodide, m.p. 180° C.

reactant | [3-(2,6,6-trimethyl-1-cyclohexenyl)-2(trans)-propenyl]dimethylamine | 2.0 g | CC1=C(C(CCC1)(C)C)/C=C/CN(C)C | C14H25N
reactant | methyliodide | 2.0 g | CI | CH3I
solvent | ether | 20 cc | CCOCC | C4H10O
product | [3-(2,6,6-trimethyl-1-cyclohexenyl)-2(trans)-propenyl]trimethylammonium iodide | 2.3 g | [I-].CC1=C(C(CCC1)(C)C)/C=C/C[N+](C)(C)C | InChI=1S/C15H28N.HI/c1-13-9-7-11-15(2,3)14(13)10-8-12-16(4,5)6;/h8,10H,7,9,11-12H2,1-6H3;1H/q+1;/p-1/b10-8+;
